US05472933
N2,N2,1-Trimethyl-1H-pyrrole-2,3-disulfonamide
To a solution of 6.95 g (21 mmol) of N3 -(1,1-dimethylethyl)N2,N2,1-trimethyl-1H-pyrrole-2,3-disulfonamide in 75 mL of methylene chloride under a nitrogen atmosphere was added 75 mL of TFA. The reaction mixture was allowed to stir at room temperature overnight ca. 16 hours. The reaction mixture was concentrated in vacuo. Three portions of diethyl ether were added to the solid residue and removed by evaporation to remove residual TFA. The solids were suspended in diethyl ether and filtered to yield 4.52 g of the title compound as a solid, m.p. 146°-148° C. 1H NMR (Acetone-d6, 200 MHz.) δ: 7.1(d,1H), 6.59(d,1H), 6.28(bs,2H), 3.95(s,3H), 2.93(s,6H).

reactant | (1,1-dimethylethyl)N2,N2,1-trimethyl-1H-pyrrole-2,3-disulfonamide | CC(C)(C)C=1C(=C(N(C1)C)S(=O)(=O)N(C)C)S(=O)(=O)N | C11H21N3O4S2
reactant | TFA | 75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | N2,N2,1-Trimethyl-1H-pyrrole-2,3-disulfonamide | 4.52 g | CN(S(=O)(=O)C=1N(C=CC1S(=O)(=O)N)C)C | C7H13N3O4S2
